US04269873
Under anhydrous conditions at 0° C. a solution of 8-oxo-2,2,6,7-tetramethyl-7-(hydroxymethyl)-3-oxa-1-azabicyclo[4.2.0]octane (0.302 mmole) in 0.6 ml ether is treated with powdered potassium hydroxide (19 mg, 0.332 mmole). After a period of 15 minutes, p-nitrobenzyl chloroformate (65 mg, 0.302 mmole) is added to the reaction mixture. Stirring is continued at 25° C. for an additional 15 hours. The mixture is partitioned between 1 M pH 7 phosphate buffer and more ether. The ether phase is washed with water and brine, dried over magnesium sulfate and filtered. Evaporation of the filtrate under reduced pressure, followed by purification by preparative thick layer chromatography on silica gel developing with 1:9 ethyl acetate/benzene gives 8-oxo-2,2,6,7-tetramethyl-7-(p-nitrobenzylcarbonyldioxymethyl)-3-oxa-1-azabicyclo[4.2.0]octane.

reactant | 8-oxo-2,2,6,7-tetramethyl-7-(hydroxymethyl)-3-oxa-1-azabicyclo[4.2.0]octane | 0.302 mmole | O=C1C(C2(CCOC(N12)(C)C)C)(CO)C | C11H19NO3
reactant | potassium hydroxide | 0.332 mmole, 19 mg | [OH-].[K+]
reactant | p-nitrobenzyl chloroformate | 0.302 mmole, 65 mg | ClC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C8H6ClNO4
reactant | ether | 0.6 ml | CCOCC | C4H10O
product | 8-oxo-2,2,6,7-tetramethyl-7-(p-nitrobenzylcarbonyldioxymethyl)-3-oxa-1-azabicyclo[4.2.0]octane | O=C1C(C2(CCOC(N12)(C)C)C)(COOC(=O)CC1=CC=C(C=C1)[N+](=O)[O-])C | C19H24N2O7
